** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/sky130_ak_ip__cmos_vref.sch
.subckt sky130_ak_ip__cmos_vref avdd18 avss trim0 vbg vptat trim1 trim2 trim3 dvdd dvss ena vbgsc vbgtg
*.PININFO vbg:O avss:B avdd18:B dvss:B ena:I vbgsc:O vbgtg:O trim3:I trim2:I trim1:I trim0:I vptat:O dvdd:B
XM2 vref vref vptat avss sky130_fd_pr__nfet_01v8 L=10 W=2 nf=1 m=1
XM1 vptat vref avss avss sky130_fd_pr__nfet_01v8 L=20 W=2.5 nf=1 m=1
XM9 vref pbias net5 avdd_ena sky130_fd_pr__pfet_01v8 L=10 W=50 nf=4 m=1
XM20 avdd_ena net11 avdd18 dvdd sky130_fd_pr__pfet_01v8 L=0.3 W=10 nf=1 m=1
x1 net4 pbias vref vptat avss sbvfcm
x2 avdd_ena vbg vref net1 net2 avss output_amp
XM3 net2 pbias net3 avdd_ena sky130_fd_pr__pfet_01v8 L=10 W=5 nf=1 m=1
Vm_b1 avdd_ena net5 0
.save i(vm_b1)
Vm_b2 avdd_ena net4 0
.save i(vm_b2)
Vm_b3 avdd_ena net3 0
.save i(vm_b3)
x3 net6 net10 net8 net7 net9 avss trim_res
XR4 net6 net1 avss sky130_fd_pr__res_xhigh_po_0p69 L=264.5 mult=1 m=1
XR3 net1 vbgsc avss sky130_fd_pr__res_xhigh_po_0p69 L=74.5 mult=1 m=1
XR2 vbgsc vbgtg avss sky130_fd_pr__res_xhigh_po_0p69 L=8.6 mult=1 m=1
XR1 vbgtg vbg avss sky130_fd_pr__res_xhigh_po_0p69 L=54.5 mult=1 m=1
x5 trim3 dvss dvss dvdd dvdd net7 sky130_fd_sc_hd__buf_1
x6 trim2 dvss dvss dvdd dvdd net8 sky130_fd_sc_hd__buf_1
x7 trim1 dvss dvss dvdd dvdd net9 sky130_fd_sc_hd__buf_1
x8 trim0 dvss dvss dvdd dvdd net10 sky130_fd_sc_hd__buf_1
x9 trim0 dvss dvss dvdd dvdd sky130_fd_sc_hd__diode_2
x14 ena dvss dvss dvdd dvdd net11 sky130_fd_sc_hd__inv_2
x4 trim1 dvss dvss dvdd dvdd sky130_fd_sc_hd__diode_2
x10 trim2 dvss dvss dvdd dvdd sky130_fd_sc_hd__diode_2
x11 trim3 dvss dvss dvdd dvdd sky130_fd_sc_hd__diode_2
x12 ena dvss dvss dvdd dvdd sky130_fd_sc_hd__diode_2
x13 dvss dvss dvdd dvdd sky130_fd_sc_hd__decap_6
.ends

* expanding   symbol:  sbvfcm.sym # of pins=5
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/sbvfcm.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/sbvfcm.sch
.subckt sbvfcm vdd pbias nbias vx vss
*.PININFO vss:B vdd:B vx:B pbias:B nbias:B
XM3 net1 vbias_st vx vss sky130_fd_pr__nfet_01v8 L=2 W=100 nf=8 m=1
XM4 net2 vbias_st vss vss sky130_fd_pr__nfet_01v8 L=2 W=5 nf=1 m=1
XM5 pbias nbias net1 vss sky130_fd_pr__nfet_01v8 L=10 W=10 nf=1 m=1
XM6 vbias_st nbias net2 vss sky130_fd_pr__nfet_01v8 L=10 W=10 nf=1 m=1
XM7 pbias pbias net6 vdd sky130_fd_pr__pfet_01v8 L=10 W=5 nf=1 m=1
XM8 vbias_st pbias net7 vdd sky130_fd_pr__pfet_01v8 L=10 W=5 nf=1 m=1
XM10 net4 net3 vss vss sky130_fd_pr__nfet_01v8 L=10 W=5 nf=1 m=1
XM11 net3 vbias_st vss vss sky130_fd_pr__nfet_01v8 L=5 W=10 nf=1 m=1
XC1 net5 net3 sky130_fd_pr__cap_mim_m3_1 W=5 L=5 m=2
Vm_st1 pbias net4 0
.save i(vm_st1)
Vm_st2 vdd net5 0
.save i(vm_st2)
Vm_b1 vdd net6 0
.save i(vm_b1)
Vm_b2 vdd net7 0
.save i(vm_b2)
.ends


* expanding   symbol:  output_amp.sym # of pins=6
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/output_amp.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/output_amp.sch
.subckt output_amp vdd vo vp vn ibias vss
*.PININFO vp:I vn:I ibias:I vo:O vss:I vdd:I
XM1 ibias ibias vss vss sky130_fd_pr__nfet_01v8 L=1 W=2.5 nf=1 m=1
XM2 net2 ibias vss vss sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 m=1
XM7 vo_pre net1 net4 vdd sky130_fd_pr__pfet_01v8 L=10 W=5 nf=1 m=1
XM4 net7 vn vcm vss sky130_fd_pr__nfet_01v8 L=2 W=10 nf=2 m=1
XM5 net8 vp vcm vss sky130_fd_pr__nfet_01v8 L=2 W=10 nf=2 m=1
XM6 net1 net1 net3 vdd sky130_fd_pr__pfet_01v8 L=10 W=5 nf=1 m=1
Vm_b1 vdd net3 0
.save i(vm_b1)
XM3 net6 ibias vss vss sky130_fd_pr__nfet_01v8 L=1 W=8 nf=1 m=1
XM8 vo vo_pre net5 vdd sky130_fd_pr__pfet_01v8 L=5 W=40 nf=2 m=1
Vm_op vdd net5 0
.save i(vm_op)
Vm_cm vcm net2 0
.save i(vm_cm)
Vm_b2 vdd net4 0
.save i(vm_b2)
XC2 vo vo_pre sky130_fd_pr__cap_mim_m3_1 W=5 L=5 m=10
Vm_on vo net6 0
.save i(vm_on)
XM9 net1 vn net7 vss sky130_fd_pr__nfet_05v0_nvt L=2 W=20 nf=2 m=1
XM10 vo_pre vp net8 vss sky130_fd_pr__nfet_05v0_nvt L=2 W=20 nf=2 m=1
.ends


* expanding   symbol:  trim_res.sym # of pins=6
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/trim_res.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_ak_ip__cmos_vref/xschem/trim_res.sch
.subckt trim_res A trim0 trim2 trim3 trim1 B
*.PININFO trim0:I trim1:I trim2:I trim3:I B:B A:B
XM1 A trim3 net3 B sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 m=1
XM2 net3 trim2 net2 B sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 m=1
XM3 net2 trim1 net1 B sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 m=1
XM4 net1 trim0 B B sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 m=1
XR1 B net1 B sky130_fd_pr__res_xhigh_po_0p69 L=3.45 mult=1 m=1
XR2 net1 net2 B sky130_fd_pr__res_xhigh_po_0p69 L=6.9 mult=1 m=1
XR3 net2 net3 B sky130_fd_pr__res_xhigh_po_0p69 L=13.8 mult=1 m=1
XR4 net3 A B sky130_fd_pr__res_xhigh_po_0p69 L=27.6 mult=1 m=1
.ends

.end
